US04978753
In the manner given in Example 16 carbonyldiimidazole β-pentynoic acid and 2-amino-7-chloro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine were stirred in tetrahydrofuran-di-methylformamide to give 9-chloro-1-ethyl-7-(o-chlorophenyl) pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | carbonyldiimidazole β-pentynoic acid | C(CC#CC)(=O)O.C(=O)(N1C=NC=C1)N1C=NC=C1
reactant | 2-amino-7-chloro-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=C(C=C2)Cl | C15H11Cl2N3
solvent | tetrahydrofuran di-methylformamide | O1CCCC1.CN(C=O)C
product | 9-chloro-1-ethyl-7-(o-chlorophenyl) pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | ClC=1C=CC2=C(C(=NCC=3N2C(=CC(N3)=O)CC)C3=C(C=CC=C3)Cl)C1 | C20H15Cl2N3O
